### ISSUE TITLE
grind canonicalizer creates closed term with proof lacking `nestedProof`

### ISSUE THREAD

**Issue by datokrat** [leanprover/lean4#13655]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In my understanding, `propagateForallPropUp` relies on the invariant that closed terms have been preprocessed and, in particular, every proof term is wrapped into `nestedProof`. However, when the canonicalizer re-synthesizes instances, it can make terms closed that had loose bvars before, and it seemingly does not re-preprocess these terms. As a consequence, the e-graph can contain two nodes that are only different in that one contains a proof wrapped into `nestedProof` and the other contains the unwrapped proof, and this obstructs closing the goal.

### Context

This occurred when I tested `grind` against the `GetElemV` redesign. Many `GetElemV` applications use `Nonempty _` proofs that depend on some external hypothesis or value, and these instances get canonicalized when possible.

### Steps to Reproduce

MWE:

```lean
public section

namespace Mwe

opaque P {α : Type} (a : α) : Prop

/--
`f` carries a `Nonempty α` instance-implicit argument.
The canonicalizer re-synthesizes it if possible.
-/
opaque f {α : Type} [_n : Nonempty α] (a : α) : α := sorry

opaque aux {α : Type} (a : α) (_h : P a) : α := sorry

inductive Mem {α : Type} : α → List α → Prop where
  | head {a : α} {as : List α} : Mem a (a :: as)
  | tail {a b : α} {as : List α} : Mem a as → Mem a (b :: as)

@[simp] theorem mem_f_dep {α : Type} (a : α) (_h : P a) :
    haveI : Nonempty α := ⟨aux a _h⟩
    Mem (f a) [a] := sorry

grind_pattern mem_f_dep => Mem (@f α ⟨aux a _h⟩ a) [a]

@[simp] theorem mem_f_indep [n : Nonempty α] (a : α) (_h : P a) :
    Mem (f a) [a] := sorry

grind_pattern mem_f_indep => Mem (f a) [a]

end Mwe
open Mwe

/--
Fails (bug):

`mem_f_dep`'s body captures `_h` via `aux a _h`. During preprocessing of the body,
`markNestedSubsingletons` sees that the `Nonempty α` proof has a loose bvar (capturing `_h`) and skips.
The canonicalizer then re-synthesizes the
`Nonempty α` from the example's `[Nonempty α]`, getting a closed term, but unwrapped.

Later, `P a` is propagated into `mem_f_dep` using `propagateForallPropUp`.
Because the body is already a closed term, it is not reprocessed again.
Therefore, the `Nonempty α` proof term stays unwrapped in `f x`.

The `f x` from `hc`, however, contains a correctly wrapped `Nonempty α` instance.
So the wrapped `f x` from `hc` and the unwrapped `f x` (from `mem_f_dep`'s body)
end up as two distinct enodes, so
`Mem c [x] = False ∧ Mem (f x [unwrapped Nonempty]) [x] = True ∧ c = f x [wrapped Nonempty]`
is not detected as a contradiction.

The problem is a violated invariant that `propagateForallPropUp` relies on:
If a term has no loose bvars, it must be preprocessed correctly.
In particular, proof terms must be wrapped into `nestedProof`.
-/
example {α : Type} [Nonempty α] (x c : α)
    (hc : (f x) = c)
    (this : P x)
    (notMem : ¬ Mem c [x]) : False := by
  fail_if_success
    grind only [usr mem_f_dep]
  sorry

/--
Passes (expected):

`mem_f_dep`'s body still captues `_h` via `aux a _h`.
However, the canonicalizer does cannot synthesize a new `Nonempty α` instance,
so the captured bvar stays in the body of `mem_f_dep`.
Therefore, `propagateForallPropUp` does not take the fast path. It makes the body
closed and then correctly preprocesses it, wrapping the `Nonempty α` instance into
`nestedProof`.
-/
example {α : Type} (x c : α)
    (hc : (haveI : Nonempty α := sorry; f x) = c)
    (this : P x)
    (notMem : ¬ Mem c [x]) : False := by
  grind only [usr mem_f_dep]

/--
Passes (expected):

`mem_f_indep`'s body has no loose bvar in the Nonempty arg, so
`markNestedSubsingletons` recurses and wraps the `Nonempty α` instance into `nestedProof`.
We get a contradiction:
`Mem c [x] = False ∧ Mem (f x [wrapped Nonempty]) [x] = True ∧ c = f x [wrapped Nonempty]`
-/
example [Nonempty α] (x c : α)
    (hc : (f x) = c)
    (this : P x)
    (notMem : ¬ Mem c [x]) : False := by
  grind only [usr mem_f_indep]
```

**Expected behavior:**

All of these examples should succeed. In particular, there's no observable difference in behavior between `mem_f_dep` and `mem_f_indep`.

**Actual behavior:**

The first example fails as explained in the docstring.

### Versions

```
Lean 4.31.0-nightly-2026-05-05
Target: x86_64-unknown-linux-gnu
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
